US06420413B2
1-Cyano-4-(2,2-diethoxyethoxy)benzocyclobutane
A solution of 16.5 g of 1-cyano-4-hydroxybenzocyclobutane in 205 ml of dimethylformamide is poured into a suspension of 67.8 mmol of sodium hydride in 160 ml of dimethylformamide. The reaction mixture is stirred for 30 minutes and then a solution of 10.2 ml of 1-bromo-2,2-diethoxyethane in 40 ml is added over the course of 15 minutes and the temperature is then maintained at 60° C. for 6 hours. The mixture is stirred for a further 12 hours, the dimethylformamide is removed by evaporation, and the residue is taken up in water, extracted with dichloromethane, dried and concentrated in vacuo. The residue is chromatographed over silica gel (CH2Cl2/AcOEt: 95/5), enabling the expected product to be isolated.

reactant | 1-cyano-4-hydroxybenzocyclobutane | 16.5 g | C(#N)C1CC2=C1C=CC(=C2)O | C9H7NO
reactant | sodium hydride | 67.8 mmol | [H-].[Na+]
reactant | 1-bromo-2,2-diethoxyethane | 10.2 ml | BrCC(OCC)OCC | C6H13BrO2
solvent | dimethylformamide | 205 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | 1-Cyano-4-(2,2-diethoxyethoxy)benzocyclobutane | C(#N)C1CC2=C1C=CC(=C2)OCC(OCC)OCC | C15H19NO3
